US04957537
A solution of mercaptothiazoline sodium (4.50 g) in tetrahydrofuran (30 ml) is added to a refluxed solution of 2-(2-chlorophenyl)maleimide (3.00 g) in tetrahydrofuran (40 ml) and the mixture is refluxed for 10 minutes. After cooling, the reaction mixture is diluted using diluted hydrochloric acid and the solvent is distilled off. The residue is extracted with ethyl acetate and the extract is washed with water and dried over magnesium sulfate. The ethyl acetate is distilled off and the residue is subjected to silica gel chromatography, elution being carried out with dichloromethanemethanol (50:1). The eluate is recrystallized from ethanol to give 2-(2-chlorophenyl)-3-(2-thiazolin-2-ylthio)succinimide (1.40 g), m.p. 195°-200° C.

reactant | mercaptothiazoline sodium | 4.50 g | [Na].SC=1SCCN1
reactant | 2-(2-chlorophenyl)maleimide | 3.00 g | ClC1=C(C=CC=C1)C=1C(=O)NC(C1)=O | C10H6ClNO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-(2-chlorophenyl)-3-(2-thiazolin-2-ylthio)succinimide | 1.40 g | ClC1=C(C=CC=C1)C1C(=O)NC(C1SC=1SCCN1)=O | C13H11ClN2O2S2
